US08247403B2
(2) 4-benzyl-6-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one
To a solution of N-benzyl-6-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide (15.5 g, 44.0 mmol) in N,N-dimethylformamide (200 ml) was added sodium hydride (60%, 2.29 g, 57.2 mmol) under ice-cooling, and the mixture was stirred for 1 hr under ice-cooling. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (4.94 g, 33.8%) as an oil.

reactant | N-benzyl-6-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide | 44.0 mmol, 15.5 g | C(C1=CC=CC=C1)N(C(C1=C(C=CC=C1Br)F)=O)CCO | C16H15BrFNO2
reactant | sodium hydride | 57.2 mmol, 2.29 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-benzyl-6-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 4.94 g, 33.8% | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C(=CC=C2)Br | C16H14BrNO2
